US06127382
(3-Bromo-4-methyl-phenyl)-isopropyl-amine (Compound 41)
Sodium borohydride (30.5 g, 806.2 mmol) was added slowly over 3 hours to a stirring mixture of 3-bromo-4-methylaniline (30 g, 161.2 mmol), ethanol (110 mL), acetic acid (92 mL, 1.6 mol), water (265 mL), acetone (66 mL, 892.2 mmol), and sodium acetate (29.2 g, 214.9 mmol). The solution was stirred at 0° C. for 1 hour. The reaction mixture was poured into the 1:1 mixture of ether and hexane containing 2N KOH. The layers were separated and aqueous layer was extracted with ether/hexane (1:1). The combined organic layers were washed once with water and brine, dried with MgSO4, filtered, and concentrated under reduced pressure. The residue was used directly for the next reaction without further purification:

reactant | Sodium borohydride | 806.2 mmol, 30.5 g | [BH4-].[Na+]
reactant | 3-bromo-4-methylaniline | 161.2 mmol, 30 g | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | acetic acid | 1.6 mol, 92 mL | C(C)(=O)O | C2H4O2
reactant | acetone | 892.2 mmol, 66 mL | CC(=O)C | C3H6O
reactant | sodium acetate | 214.9 mmol, 29.2 g | C(C)(=O)[O-].[Na+]
solvent | hexane | 2N | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | water | 265 mL | O | H2O
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | (3-Bromo-4-methyl-phenyl)-isopropyl-amine | BrC=1C=C(C=CC1C)NC(C)C | C10H14BrN
